US06649647B1
To a solution of dihydroartemisinin (426 mg, 1.50 mmol) and 2,2,2-trifluoroethanol (220 μl, 3.00 mmol) in diethyl ether (30 ml) at room temperature under nitrogen was added boron trifluoride dietherate (3 drops). The mixture was stirred at room temperature for 6 hours. The reaction was quenched with saturated NaHCO3 solution, dried (MgSO4) and concentrated in vacuo. Flash chromatography (SiO2: 8% ethyl acetate/hexanes) gave 10β-[(2′,2′,2′-trifluoroethyl)oxy]dihydroartemisinin (157 mg, 29%) and 9,10-anhydrodehydroartemisinin (133 mg, 46%) both as white solids. Ether: M.p. 113.4-114.2° C.; [α]D20: +133° (c 0.30/CHCl3); νmax (film): 2984, 2960, 2928, 2870, 1454, 1414, 1378, 1308, 1278, 1174, 1150, 1110, 1052, 1036, 990, 972, 918, 874, 824; δH: 5.43 (1H, s, H-12), 4.90 (1H, d, J=3.46 Hz, H-10), 4.15 (1H, dq, J=12.2, 8.87 Hz, H-1′), 3.89 (1H, d, J=12.2, 8.67 Hz, H-1′), 2.65-2.75 (1H, m, H-9), 2.40 (1H, ddd, J=17.5, 13.4, 4.02 Hz), 2.07 (1H, ddd, J=14.6, 4.83, 3.01 Hz), 1.64-1.96 (5H, m), 1.22-1.58 (4H, m), 1.46 (3H, s, H-14), 0.98 (3H, d, J=5.94 Hz, H-16), 0.97 (3H, d, J=7.69 Hz, H-15); δC: 104.13, 102.41, 87.93, 80.73, 64.91 (d, J=34.3 Hz), 52.32, 43.99, 37.29, 36.17, 34.39, 30.44, 25.90, 24.47, 24.11, 20.13, 12.47; m/z (CI, NH3): 384 (M+NH4+, 16%), 367 (M++1, 2), 284 (100), 267 (72).

reactant | dihydroartemisinin | 1.50 mmol, 426 mg | C[C@@H]1CC[C@H]2[C@H]([C@H](O[C@H]3[C@@]24[C@H]1CCC(O3)(OO4)C)O)C | C15H24O5
reactant | 2,2,2-trifluoroethanol | 3.00 mmol, 220 μl | FC(CO)(F)F | C2H3F3O
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 9,10-anhydrodehydroartemisinin | 133 mg, 46% | C[C@@H]1CC[C@H]2C(=CO[C@H]3[C@@]24[C@H]1CC[C@](O3)(OO4)C)C | C15H22O4
